US03985895
19.7 G. of dibenzo[b,e]thiepin-11(6H)-one and 14.6 g. of hydroxylamine hydrochloride in 350 ml. of pyridine are stirred under reflux conditions for 16 hours. After the addition of a further 7.3 g. of hydroxylamine hydrochloride, the mixture is stirred for a further 5 hours under reflux conditions. The mixture is evaporated and purified by chromatography over aluminum oxide using chloroform and chloroform/methanol (93:3) for the elution. The purified product is recrystallized from acetone. There is obtained dibenzo[b,e]thiepin-11(6H)-one-oxime of melting point 241°-243° C.

reactant | dibenzo[b,e]thiepin-11(6H)-one | C1=CC=CC=2SCC3=C(C(C21)=O)C=CC=C3 | C14H10OS
reactant | hydroxylamine hydrochloride | Cl.NO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | dibenzo[b,e]thiepin-11(6H)-one-oxime | C1=CC=CC=2SCC3=C(C(C21)=NO)C=CC=C3 | C14H11NOS
